US04483868
Stage A: 4-(2,5-dimethoxyphenyl)-4-oxo-2-hydroxy-butanoic acid
22.2 g of glyoxylic acid, 50 wt.% in water, are heated under reduced pressure until about 80% of the water present has been eliminated; then, after cooling, 54 g of 2,5-dimethoxyacetophenone are added, i.e., an excess of 100% over theoretical.

reactant | glyoxylic acid | 22.2 g | C(C=O)(=O)O | C2H2O3
reactant | 2,5-dimethoxyacetophenone | 54 g | CC(=O)C1=C(C=CC(=C1)OC)OC | C10H12O3
solvent | water | O | H2O
product | 4-(2,5-dimethoxyphenyl)-4-oxo-2-hydroxy-butanoic acid | COC1=C(C=C(C=C1)OC)C(CC(C(=O)O)O)=O | C12H14O6
